US05360800
2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one
A solution of 2,3,4,5-tetrahydro-2[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one (261 mg) in dry DMF (25 ml) was treated with sodium hydride (60% dispersion in oil; 30 mg) and the mixture was stirred at room temperature under nitrogen for 15 min. Iodomethane (0.5M solution in DMF; 2 ml) was then added and stirring was continued for a further 15 min. The reaction mixture was then poured into water (100 ml) and the resulting suspension was extracted with ethyl acetate (2×50 ml). The combined organic extracts were washed with water (2×100 ml), dried and concentrated to give a solid. This was dissolved in a mixture of water (10 ml), THF (10 ml) and glacial acetic acid (10 ml) and heated at reflux for 2 h. After cooling, residual THF was removed in vacuo and the remaining solution was basified (to pH14) by addition of 2N sodium hydroxide. The resulting suspension was extracted with ethyl acetate (2×50 ml) and the combined, dried organic extracts were concentrated onto silica (Merck 7385). FCC eluting with System A (100:8:1) gave the title compound (81 mg) as a solid. The 1H-n.m.r. and t.l.c. data obtained for this material were consistent with those obtained for the product of Example 20.

reactant | 2,3,4,5-tetrahydro-2[[5-methyl-1-(triphenylmethyl)-1H-imidazol-4-yl]methyl]-1H-pyrido[4,3-b]indol-1-one | 261 mg | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN1C(C2=C(NC=3C=CC=CC23)CC1)=O | C35H30N4O
reactant | sodium hydride | 30 mg | [H-].[Na+]
reactant | Iodomethane | 0.5M, 2 ml | IC | CH3I
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 10 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 100 ml | O | H2O
product | 2,3,4,5-Tetrahydro-5-methyl-2-[(5-methyl-1H-imidazol-4-yl)methyl]-1H-pyrido[4,3-b]indol-1-one | 81 mg | CN1C2=C(C=3C=CC=CC13)C(N(CC2)CC=2N=CNC2C)=O | C17H18N4O
